US08685980B2
Following General Procedure B, 7-cyclopentyl-2-(5-formyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (200 mg, 0.528 mmol) and 1-acetyl piperazine (75 mg, 0.581 mmol) gave 2-[5-(4-acetyl-piperazin-1-ylmethyl)-pyridin-2-ylamino]-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide as an off white solid (96 mg, 37%) [following SiO2 chromatography, eluting with 0-10% (2M NH3 in MeOH)/dichloromethane]. MS (ESI) m/z 491.2 (M+H)+ (method A).

reactant | 7-cyclopentyl-2-(5-formyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.528 mmol, 200 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)C=O)N1C1CCCC1)C | C20H22N6O2
reactant | 1-acetyl piperazine | 0.581 mmol, 75 mg | C(C)(=O)N1CCNCC1 | C6H12N2O
product | 2-[5-(4-acetyl-piperazin-1-ylmethyl)-pyridin-2-ylamino]-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)CN2CCN(CC2)C(C)=O)N1C1CCCC1)C | C26H34N8O2
